US08563565B2
(3) Synthesis of 8-fluoro-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
KTB (41 mg) was added to a solution of 5-(2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxamide (81 mg) in NMP (0.4 mL), and the mixture was heated to 90° C. After one hour, KTB (20 mg) was further added, followed by stirring for 30 minutes. The reaction mixture was cooled to room temperature, followed by adding a saturated aqueous ammonium chloride solution (2 mL) and water (1 mL). The generated solid was filtered off, washed with water (2 mL) and dried under reduced pressure at 60° C. to give the title compound (57 mg).

reactant | 5-(2,5-difluoro-4-(2-methoxy-4,6-dimethylpyridin-3-yl)phenyl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazole-4-carboxamide | 81 mg | FC1=C(C=C(C(=C1)C=1C(=NC(=CC1C)C)OC)F)C1=C(C=NN1C1CCOCC1)C(=O)N | C23H24F2N4O3
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
reactant | water | 1 mL | O | H2O
solvent | NMP | 0.4 mL | CN1CCCC1=O | C5H9NO
product | 8-fluoro-7-(2-methoxy-4,6-dimethylpyridin-3-yl)-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 57 mg | FC1=CC=2C3=C(C(NC2C=C1C=1C(=NC(=CC1C)C)OC)=O)C=NN3C3CCOCC3 | C23H23FN4O3
